US06544298B1
9.85 ml of N-methylimidazole (123 mmol) were added to a suspension of 10 g (41 mmol) of N-(4-acetylamino-2-hydroxyphenyl)-2-chloroacetamide obtained above in the preceding step in 30 ml of ethyl acetate. The reaction medium was heated under reflux for 6 hours and then the insoluble product formed was drained and abundantly washed with ethyl acetate. The brown solid thus obtained was taken up in water and filtered and then the filtrate was poured over dioxane. The precipitate obtained was drained, abundantly washed with dioxane and then with isopropyl ether and dried under vacuum to give 10.6 g of 3-[(4-acetylamino-2-hydroxyphenylcarbamoyl)methyl]-1-methyl-3H-imidazol-1-ium chloride in the form of a purple-brown powder whose melting point was 225° C., (yield 79%).

reactant | N-methylimidazole | 123 mmol, 9.85 ml | CN1C=NC=C1 | C4H6N2
reactant | N-(4-acetylamino-2-hydroxyphenyl)-2-chloroacetamide | 41 mmol, 10 g | C(C)(=O)NC1=CC(=C(C=C1)NC(CCl)=O)O | C10H11ClN2O3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-[(4-acetylamino-2-hydroxyphenylcarbamoyl)methyl]-1-methyl-3H-imidazol-1-ium chloride | 10.6 g, yield 79% | [Cl-].C(C)(=O)NC1=CC(=C(C=C1)NC(=O)CN1C=[N+](C=C1)C)O | InChI=1S/C14H16N4O3.ClH/c1-10(19)15-11-3-4-12(13(20)7-11)16-14(21)8-18-6-5-17(2)9-18;/h3-7,9H,8H2,1-2H3,(H2-,15,16,19,20,21);1H
